US09303040B2
HCl in dioxane (4M, 2 mL) was added to a solution of 3-(4-chlorophenyl)-1-(4-(6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate (58 mg, 0.11 mmol) in DCM (10 mL). The mixture was stirred at room temperature for 4 hours, and the solvent was removed to afford (R)-2-amino-3-(4-chlorophenyl)-1-(4-(6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (47 mg, 100%). LCMS: 436.0 [M+H+] (APCI+).

reactant | HCl | Cl | ClH
reactant | 3-(4-chlorophenyl)-1-(4-(6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate | 0.11 mmol, 58 mg | ClC1=CC=C(C=C1)CC(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS(C2)(=O)=O)NC([O-])=O
solvent | dioxane | 4M, 2 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-3-(4-chlorophenyl)-1-(4-(6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | 47 mg, 100% | Cl.Cl.N[C@@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS(C2)(=O)=O)CC2=CC=C(C=C2)Cl | InChI=1S/C19H22ClN5O3S.2ClH/c20-14-3-1-13(2-4-14)9-16(21)19(26)25-7-5-24(6-8-25)18-15-10-29(27,28)11-17(15)22-12-23-18;;/h1-4,12,16H,5-11,21H2;2*1H/t16-;;/m1../s1
